US07723345B2
1-(4-Bromophenyl)-2,2,2-trifluoroethanol (0.13 g, 0.525 mmol), m-tolylboronic acid (0.1 g, 0.736 mmol), Fibercat (4.28% Pd, 47 mgs, 0.0157 mmol Pd), K2CO3 (0.22 g, 1.576 mmol), EtOH (3 mls), and H2O (0.5 mls) were combined and heated at 80° C. for 4 hours. The reaction was shown complete by TLC (CH2Cl2). The mixture was cooled, filtered, concentrated, slurried in CH2Cl2, and chromatographed over silica gel (CH2Cl2) to give 0.1 g of 2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethanol. Yield: 72%.

reactant | 1-(4-Bromophenyl)-2,2,2-trifluoroethanol | 0.525 mmol, 0.13 g | BrC1=CC=C(C=C1)C(C(F)(F)F)O | C8H6BrF3O
reactant | m-tolylboronic acid | 0.736 mmol, 0.1 g | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
reactant | K2CO3 | 1.576 mmol, 0.22 g | C(=O)([O-])[O-].[K+].[K+]
reactant | EtOH | 3 mls | CCO | C2H6O
catalyst | Pd | [Pd] | Pd
catalyst | Pd | 0.0157 mmol, 47 mgs | [Pd] | Pd
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | 0.5 mls | O | H2O
product | 2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethanol | 0.1 g, Yield: 72% | FC(C(O)C1=C(C=CC=C1)C1=CC(=CC=C1)C)(F)F | C15H13F3O
